US09382254B2
Intermediate 2: 2-Acetylamino-5-chloro-thiophene3-carboxylic acid amide
2-acetylamino-thiophene-3-carboxylic acid amide (2.38 g, 12.9 mmol) is dissolved in AcOH (25 mL). NCS (1.9 g, 14.3 mmol) is added and the resulting suspension is stirred at room temperature. After overnight stirring, another 150 mg (1.13 mmol) of NCS is added to the mixture and stirring is continued at 35° C. for 3 h. The mixture is evaporated, and the resulting residue is suspended in water, sonicated, and filtered to give the desired product.

reactant | 2-acetylamino-thiophene-3-carboxylic acid amide | 12.9 mmol, 2.38 g | C(C)(=O)NC=1SC=CC1C(=O)N | C7H8N2O2S
reactant | NCS | 14.3 mmol, 1.9 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | NCS | 1.13 mmol, 150 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | AcOH | 25 mL | CC(=O)O | C2H4O2
product | 2-Acetylamino-5-chloro-thiophene3-carboxylic acid amide | C(C)(=O)NC=1SC(=CC1C(=O)N)Cl | C7H7ClN2O2S
